US08039460B2
Step C: Benzyl 4-[1-(ethoxycarbonyl)-3-oxobutyl]piperidine-1-carboxylate
Osmium tetroxide (2.5 wt. % in t-BuOH; 0.3 mL, 0.001 mmol) was added to a solution of benzyl 4-[1-(ethoxycarbonyl)-3-methylbut-3-en-1-yl]piperidine-1-carboxylate (2.88 g, 8.01 mmol) in tetrahydrofuran (30 mL). Sodium periodate (5.14 g, 24.0 mmol) in water (26 mL) was added to the reaction mixture. After 5 days, the reaction was diluted with saturated aqueous sodium sulfite and saturated aqueous sodium bicarbonate and extracted with ethyl acetate (3×). The combined organic washes were dried over sodium sulfate, filtered and concentrated to give the title compound. MS 362.2 (M+1).

reactant | benzyl 4-[1-(ethoxycarbonyl)-3-methylbut-3-en-1-yl]piperidine-1-carboxylate | 8.01 mmol, 2.88 g | C(C)OC(=O)C(CC(=C)C)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C21H29NO4
reactant | Sodium periodate | 24.0 mmol, 5.14 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | 26 mL | O | H2O
solvent | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | Osmium tetroxide | 0.001 mmol, 0.3 mL | [Os](=O)(=O)(=O)=O
product | Benzyl 4-[1-(ethoxycarbonyl)-3-oxobutyl]piperidine-1-carboxylate | C(C)OC(=O)C(CC(C)=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C20H27NO5
